US06936602B1
In toluene (20 ml), ethanol (2 ml) and water (2 ml) were suspended methyl 1-allyl-7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate (274 mg), 4-propoxyethoxyphenyl borate (248 mg) and potassium carbonate (307 mg), and the suspension was stirred under argon atmosphere for 30 minutes, Then, tetrakistriphenylphosphinepalladium (69 mg) was added thereto, and the mixture was heated under argon atmosphere at 100° C. for 8 hours. After allowing to cool, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=4:1) to give methyl 1-allyl-7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate (269 mg) as yellow oil.

reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | methyl 1-allyl-7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate | 274 mg | C(C=C)N1CCC(=CC2=C1C=CC(=C2)Br)C(=O)OC | C15H16BrNO2
reactant | 4-propoxyethoxyphenyl borate | 248 mg | B(OC1=CC=C(C=C1)OCCOCCC)([O-])[O-]
reactant | potassium carbonate | 307 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphinepalladium | 69 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 2 ml | O | H2O
product | methyl 1-allyl-7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 269 mg | C(C=C)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C26H31NO4
